US04666510
A solution of 4-chloro-3,5-dimethylphenol (16 g, 0.1 mole) in dichloromethane (100 ml) was stirred and cooled to 2° C. in an ice bath. Titanium tetrachloride (35 g, 0.18 mole) was added dropwise over a period of 10 minutes and dichloromethylmethyl ether (11.5 g, 0.1 mole) was added slowly to the dark red solution, the temperature being kept below 10° C. throughout. After the solution had been stirred at 5° C. for 30 minutes the temperature was allowed to rise and to remain at 20° C. for 30 minutes. Finally the solution was warmed at 35° C. for 15 minutes and then poured into ice water (200 ml). The mixture was shaken vigorously until almost colourless and then the dichloromethane layer was separated and the aqueous phase was extracted with more dichloromethane (2×50 ml). The combined organic layers were washed with water thoroughly (4×200 ml) and then dried over anhydrous magnesium sulphate. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure using a rotary evaporator. The product, 3-chloro-6-hydroxy-2,4-dimethylbenzaldehyde was isolated as a white solid (13 g, 70%), mp 89°-90° C. Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 2.40 (3H, s); 2.64 (3H, s); 6.71 (1H, s); 10.23 (1H, s); 11.91 (1H, s).

reactant | 4-chloro-3,5-dimethylphenol | 0.1 mole, 16 g | ClC1=C(C=C(C=C1C)O)C | C8H9ClO
reactant | dichloromethylmethyl ether | 0.1 mole, 11.5 g | ClC(Cl)OC | C2H4Cl2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 0.18 mole, 35 g | [Ti](Cl)(Cl)(Cl)Cl
product | 3-chloro-6-hydroxy-2,4-dimethylbenzaldehyde | ClC=1C(=C(C=O)C(=CC1C)O)C | C9H9ClO2
